US07960562B2
A chloroform solution of tetrahydro-2H-thiopyran-4-carbonitrile was dropwise added to a chloroform solution of 77% m-chloroperbenzoic acid at 0° C., followed by stirring at room temperature for 3 hours. An excess amount of an aqueous saturated sodium sulfite solution was added, followed by work-up to obtain tetrahydro-2H-thiopyran-4-carbonitrile 1,1-dioxide.

reactant | tetrahydro-2H-thiopyran-4-carbonitrile | S1CCC(CC1)C#N | C6H9NS
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | tetrahydro-2H-thiopyran-4-carbonitrile 1,1-dioxide | S1(CCC(CC1)C#N)(=O)=O | C6H9NO2S
